US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (1-naphthalen-1-yl-ethyl)-amide (3)
1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (40.0 mg, 0.156 mmol) and O-(7-azabenzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (89 mg, 0.23 mmol) were combined in a 20 mL vial and dimethylacetamide (DMA) (1 mL) was added. The yellow solution was stirred at room temperature for 10 minutes and then a solution of 1-(1-napthyl)ethylamine (40.1 mg, 0.234 mmol) and N-methylmorpholine (NMM) (0.086 mL, 0.78 mmol) in DMA (0.20 mL) was added. The mixture was shaken at room temperature for 16 hours then the solution was evaporated in vacuo. The crude product was purified by preparative reversed-phase HPLC to afford the title compound.

reactant | 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid | 0.156 mmol, 40.0 mg | FC1=CC=C(C=C1)N1N=CC=2C(=CC=CC12)C(=O)O | C14H9FN2O2
reactant | O-(7-azabenzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.23 mmol, 89 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-(1-napthyl)ethylamine | 0.234 mmol, 40.1 mg | C1(=CC=CC2=CC=CC=C12)C(C)N | C12H13N
reactant | N-methylmorpholine | 0.78 mmol, 0.086 mL | CN1CCOCC1 | C5H11NO
solvent | DMA | 0.20 mL | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 1 mL | CC(=O)N(C)C | C4H9NO
product | 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (1-naphthalen-1-yl-ethyl)-amide | C1(=CC=CC2=CC=CC=C12)C(C)NC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C26H20FN3O
